US08247431B2
Step 4: Preparation of 2-(3-bromo-pyrazol-1-yl)-3-chloro-pyridine
The crude product of 3-bromo-1H-pyrazole (10.7 g) was dissolved in DMF (80 mL), 2,3-dichloropyridine (11.8 g) and caesium carbonate (57.3 g) were added and the mixture was stirred for 8 h at 100° C. After addition of water, the mixture was extracted 2× with MTB-ether, the combined org. layers were washed 2× with water, brine, dried over MgSO4 and concentrated in vacuum. The residue was purified by column chromatography (silica gel 60, hexane/ethyl acetate=5:1, Rf=0.20) to afford 12.9 g of the title compound of the formula

reactant | 3-bromo-1H-pyrazole | 10.7 g | BrC1=NNC=C1 | C3H3BrN2
reactant | 2,3-dichloropyridine | 11.8 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | caesium carbonate | 57.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-(3-bromo-pyrazol-1-yl)-3-chloro-pyridine | 12.9 g | BrC1=NN(C=C1)C1=NC=CC=C1Cl | C8H5BrClN3
